US04451470
17-(Cyclopropylmethyl)-4,5-epoxy-14-fluoro-3-hydroxymorphinan-6-one
Boron tribromide (2.5 ml) was dissolved in chloroform (75 ml), and chilled to 20°-25°. A solution of 17-(cyclopropylmethyl)-4,5-epoxy-14-fluoro-3-methoxymorphinan-6-one (1.25 g in 25 ml chloroform) was added and the mixture stirred at that temperature for one-half hour. The reaction mixture was then dumped with good stirring onto 80 g of ice containing 5 ml of concentrated ammonium hydroxide at approximately pH 9.2. The chloroform solution was vigorously shaken, washed with water, then extracted with 5% sodium hydroxide solution. The alkali extract was then separated, acidified, and the liberated phenolic compound taken up in chloroform, washed, and dried over molecular sieve. The dried solvent extract was evaporated, and the crude product column chromatographed using silica gel and, as eluant, a solvent mixture comprising 95% chloroform and 5% ethanol. The purified product was crystallized from ethanol, m.p. 188°-190°.

reactant | Boron tribromide | 2.5 ml | B(Br)(Br)Br | BBr3
reactant | 17-(cyclopropylmethyl)-4,5-epoxy-14-fluoro-3-methoxymorphinan-6-one | 25 ml, 1.25 g | C1(CC1)CN1[C@H]2[C@@]3(CCC(C4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)=O)F | C21H24FNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 17-(Cyclopropylmethyl)-4,5-epoxy-14-fluoro-3-hydroxymorphinan-6-one | C1(CC1)CN1[C@H]2[C@@]3(CCC(C4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)F | C20H22FNO3
